US04962040
24.0 g of amino-4,6-dinitrobenzthiazole are heated to boiling for 1 hour in 200 ml of 2-ethoxyethanol with 20 ml of hydrazine hydrate (100% purity). After cooling to room temperature, the reaction mixture is poured into a mixture of 750 ml of water and 20 ml of glacial acetic acid, stirred for 1 hour, filtered off under suction, washed with water and dried. 21.0 g of 2-hydrazino-4,6-dinitrobenzthiazole are obtained. Melting point 210°-214° C. (decomposition). After recrystallization from 2-methoxyethanol. Melting point 216°-217° C. (decomposition).

reactant | amino-4,6-dinitrobenzthiazole | 24.0 g | NC=1SC2=C(N1)C(=CC(=C2)[N+](=O)[O-])[N+](=O)[O-] | C7H4N4O4S
reactant | hydrazine hydrate | 20 ml | O.NN
reactant | water | 750 ml | O | H2O
reactant | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
solvent | 2-ethoxyethanol | 200 ml | C(C)OCCO | C4H10O2
product | 2-hydrazino-4,6-dinitrobenzthiazole | 21.0 g | N(N)C=1SC2=C(N1)C(=CC(=C2)[N+](=O)[O-])[N+](=O)[O-] | C7H5N5O4S
